US06022906
9a 1-[4-(3-Hydroxypropylamino) phenyl]-2-dimethylamino-2-benzyl-butan-1-one
15.0 g (0.050 mol) of 1-(4-fluorophenyl)-2-dimethylamino-2-benzyl-butan-1-one and 26.3 g (0.35 mol) of 3-amino-1-propanol are dissolved in 30 ml of dry dimethylacetamide, and the solution is heated up to 150° C. together with 13.8 g (0.1 mol) of potassium carbonate, and stirred overnight (about 12 h). After the solution is cooled down, it is poured into 300 ml of water and extracted with ethyl acetate. The organic phase is washed with water and saturated sodium chloride solution, and dried over MgSO4. After distilling off the ethyl acetate, the residue is purified by means of column chromatography on silica gel with ethyl acetate-hexane (1:1) as an eluent, and an oily product is obtained. The structure is confirmed by the 1H-NMR spectrum (CDCl3): δ [ppm]: 0.68 (t, 3H), 1.52 (br, 1H), 1.82-1.94 (m, 3H), 2.00-2.07 (m, 1H), 2.35 (s, 6H), 3.17 (d, 1H), 3.20 (d, 1H), 3.32-3.37 (m, 2H), 3.81-3.85 (m, 2H), 4.42 (br, 1H), 6.52 (d, 2H), 7.14-7.28 (m, 5H), 8.32 (d, 2H).

reactant | 1-(4-fluorophenyl)-2-dimethylamino-2-benzyl-butan-1-one | 0.050 mol, 15.0 g | FC1=CC=C(C=C1)C(C(CC)(CC1=CC=CC=C1)N(C)C)=O | C19H22FNO
reactant | 3-amino-1-propanol | 0.35 mol, 26.3 g | NCCCO | C3H9NO
reactant | potassium carbonate | 0.1 mol, 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | dimethylacetamide | 30 ml | CC(=O)N(C)C | C4H9NO
product | 1-[4-(3-Hydroxypropylamino) phenyl]-2-dimethylamino-2-benzyl-butan-1-one | OCCCNC1=CC=C(C=C1)C(C(CC)(CC1=CC=CC=C1)N(C)C)=O | C22H30N2O2
